US04358307
A mixture of 3-[N-(6-chloroquinoxalin-2-yl)amino]phenol (10 mmole), ethyl 2-bromopropionate (10 mmole), anhydrous potassium carbonate (2 g) and methyl ethyl ketone (100 ml) was heated under reflux for a period of 12 hours. The reaction mixture was filtered and the solvent was removed by distillation under reduced pressure. The residue was purified by chromatography over alumina (eluent dichloromethane) to give ethyl 2-{3-[N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionate as an oil.

reactant | 3-[N-(6-chloroquinoxalin-2-yl)amino]phenol | 10 mmole | ClC=1C=C2N=CC(=NC2=CC1)NC=1C=C(C=CC1)O | C14H10ClN3O
reactant | ethyl 2-bromopropionate | 10 mmole | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | ethyl 2-{3-[N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionate | ClC=1C=C2N=CC(=NC2=CC1)NC=1C=C(OC(C(=O)OCC)C)C=CC1 | C19H18ClN3O3
